US04876284
(-)-cis-5-Methoxy-1-methyl-2-(di-n-propylamino)tetralin hydrochloride (0.37 g, 0.0012 mol) was treated with 48% HBr (15 ml) as described above to give (-)-cis-5-hydroxy-1-methyl-2-(di-n-propylamino)tetralin hydrochloride (0.26 g, 55%) m.p. 228°-229° C., [α]D22 =-50.1 (c=1.1, CH3OH).

reactant | (-)-cis-5-Methoxy-1-methyl-2-(di-n-propylamino)tetralin hydrochloride | 0.0012 mol, 0.37 g | Cl.COC1=C2CC[C@@H]([C@@H](C2=CC=C1)C)N(CCC)CCC
reactant | HBr | 15 ml | Br | BrH
solvent | CH3OH | CO | CH4O
product | (-)-cis-5-hydroxy-1-methyl-2-(di-n-propylamino)tetralin hydrochloride | 0.26 g, 55% | Cl.OC1=C2CC[C@@H]([C@@H](C2=CC=C1)C)N(CCC)CCC | InChI=1S/C17H27NO.ClH/c1-4-11-18(12-5-2)16-10-9-15-14(13(16)3)7-6-8-17(15)19;/h6-8,13,16,19H,4-5,9-12H2,1-3H3;1H/t13-,16+;/m1./s1
